US08431695B2
Preparation of 2-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-ethanol
2-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-ethanol (425 mg, 1.65 mmol) and 2-benzyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole (828.8 mg, 2.48 mmol, 1.5 eq) were dissolved in 1:1 EtOH-toluene (33 mL each) and degassed with nitrogen. After 30 minutes, [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complexed with dichloromethane (121 mg, 0.17 mmol, 0.1 eq) followed by 2M aqueous sodium carbonate solution (1.65 mL, 3.31 mmol, 2.0 eq) were added. The reaction mixture was stirred at 80° C. for 17 h and cooled to rt. The reaction mixture was partitioned between EtOAc and water and filtered through a pad of Celite® to remove excess palladium salts. The organic layer was washed with water and brine, dried over Mg2SO4, filtered, and concentrated in vacuo. The crude product was purified using an ISCO® instrument (gradient 1 to 100% [20% MeOH/DCM+1% Et3N]/DCM) and the product containing fractions were concentrated. Trituration with DCM-hexane gave 232.3 mg (36%) of the title compound as beige solid. 1H NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1H), 7.88 (s, 1H), 7.79 (d, 1H), 7.56 (s, 1H), 7.34-7.28 (m, 5H), 7.13 (dd, 1H), 6.62 (s, 1H), 5.64 (s, 2H), 4.76 (t, 1H), 3.72 (q, 2H), 3.04 (t, 2H); ES-MS m/z 385.2 [M+H]+, RT (min) 2.25.

reactant | 2-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-ethanol | 1.65 mmol, 425 mg | NC1=NC=NN2C1=C(C=C2CCO)Br | C8H9BrN4O
reactant | 2-benzyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole | 2.48 mmol, 828.8 mg, 1.5 eq | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)B1OC(C(O1)(C)C)(C)C | C20H23BN2O2
reactant | dichloromethane | 0.17 mmol, 121 mg, 0.1 eq | ClCCl | CH2Cl2
reactant | sodium carbonate | 3.31 mmol, 2M, 1.65 mL, 2.0 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH toluene | 33 mL | CCO.C1(=CC=CC=C1)C
product | 2-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-ethanol | 232.3 mg, 36% | NC1=NC=NN2C1=C(C=C2CCO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C22H20N6O
